US04428889
(B) Dimer of p-(n-Pentyloxy)phenylthionophosphine Sulfide (IIa)
n-Pentyloxybenzene (Ia) and P4S10 (in a molar ratio of 10:1) were stirred for six hours at 150° C. under anhydrous conditions. The mixture was cooled, toluene was added, and the reaction flask was left for two days at 5° C. The resulting precipitate was recovered by filtration, washed with anhydrous ether and dried. The yield of product was 46% of theory; after recrystallization from chloroform/petroleum ether it melted at 144°-6° C. Its solubility in tetrahydrofuran was found to be 5 gms/100 ml at room temperature.

reactant | n-Pentyloxybenzene | C(CCCC)OC1=CC=CC=C1 | C11H16O
reactant | P4S10 | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | p-(n-Pentyloxy)phenylthionophosphine Sulfide | C(CCCC)OC1=CC=C(C=C1)P(=S)=S | C11H15OPS2
